US06867323B2
Preparation of Ethyl-(Z)-4-(1-heptenyl)benzoate ((Z)-154f) [Table 22, entry 12]
Following General Procedure II, a mixture of KOSiMe3 (570 mg, 4.0 mmol, 2.0 equiv), (Z)-21 (379 mg, 2.2 mmol, 1.1 equiv), ethyl-4-iodobenzoate (2.0 mmol) and Pd(dba)2 (58 mg, 0.1 mmol, 0.05 equiv) was stirred at room temperature for 15 min, and then was filtered through SiO2. Purification by column chromatography (RP C18, MeOH/H2O, 9/1) and Kugelrohr distillation afforded 411 mg (83%) of (Z)-154f as colorless oil.

reactant | KOSiMe3 | 4.0 mmol, 570 mg, 2.0 equiv | O([K])[Si](C)(C)C
reactant | ethyl-4-iodobenzoate | 2.0 mmol | C(C)OC(C1=CC=C(C=C1)I)=O | C9H9IO2
catalyst | Pd(dba)2 | 0.1 mmol, 58 mg, 0.05 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | Ethyl-(Z)-4-(1-heptenyl)benzoate | C(C)OC(C1=CC=C(C=C1)\C=C/CCCCC)=O | C16H22O2
